US08877742B2
tert-butyl 5-sulfamoylisoindoline-2-carboxylate
To a solution of tert-butyl 5-(chlorosulfonyl)isoindoline-2-carboxylate (D97) (400 mg, 1.259 mmol) in THF (12 mL) was added ammonium hydroxide (0.490 mL, 12.59 mmol) at 0° C. The mixture was left to stir for 1 hour at RT. The mixture was concentrated in vacuo and the residue obtained taken up in water (50 mL) and extracted with ethyl acetate (3×50 mL). The combined organics were dried and concentrated down to afford the title compound (335 mg). LCMS (A): m/z (M−H)− 297, C13H18N2O4S requires 298 (acidic).

reactant | tert-butyl 5-(chlorosulfonyl)isoindoline-2-carboxylate | 1.259 mmol, 400 mg | ClS(=O)(=O)C=1C=C2CN(CC2=CC1)C(=O)OC(C)(C)C | C13H16ClNO4S
reactant | ammonium hydroxide | 12.59 mmol, 0.490 mL | [OH-].[NH4+]
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | tert-butyl 5-sulfamoylisoindoline-2-carboxylate | 335 mg | S(N)(=O)(=O)C=1C=C2CN(CC2=CC1)C(=O)OC(C)(C)C | C13H18N2O4S
